US08975282B2
Step 1) 4-(4-amino-2-fluorophenoxy)-3-chloropicolinamide
To a solution of 4-amino-2-fluorophenol (254 mg, 2.0 mmol) in DMF (5 mL) was added t-BuOK (359 mg, 3.2 mmol). The mixture was stirred at rt for 30 minutes. 3,4-dichloropicolinamide (420 mg, 2.2 mmol) was then added, and the mixture was microwaved at 120° C. for 2 hours. The mixture was cooled to rt, quenched with 25 mL of water. The resulted solution was extracted with EtOAc (30 mL×3) and the combined organic phases were washed with brine (30 mL×3), dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (EtOAc/PE (v/v)=2/1) to give the title compound as a pale yellow solid (306 mg, 54.4%).

reactant | 4-amino-2-fluorophenol | 2.0 mmol, 254 mg | NC1=CC(=C(C=C1)O)F | C6H6FNO
reactant | t-BuOK | 3.2 mmol, 359 mg | CC(C)(C)[O-].[K+]
reactant | 3,4-dichloropicolinamide | 2.2 mmol, 420 mg | ClC=1C(=NC=CC1Cl)C(=O)N | C6H4Cl2N2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-(4-amino-2-fluorophenoxy)-3-chloropicolinamide | 306 mg, 54.4% | NC1=CC(=C(OC2=C(C(=NC=C2)C(=O)N)Cl)C=C1)F | C12H9ClFN3O2
